US08202858B2
4-tert-Butoxycarbonylmethoxy-3-methyl-benzoic Acid Methyl Ester
Potassium carbonate (4.6 g, 33 mmol), potassium iodide (0.25 g, 1.5 mmol) and tert-butylbromoacetate (2.5 ml, 16.5 mmol) were added to a solution of 4-hydroxy-3-methyl-benzoic acid methyl ester from Example E29 (2.5 g, 15 mmol) in acetone (150 ml) and the mixture was heated at reflux for 20 h. The solid was filtered off and the filtrate concentrated in vacuo. The residue was dissolved in EtOAc, washed with 1N KHSO4, water then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 15% EtOAc:85% hexane) to yield the title compound (3.8 g, 90%).

reactant | Potassium carbonate | 33 mmol, 4.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.5 mmol, 0.25 g | [I-].[K+]
reactant | tert-butylbromoacetate | 16.5 mmol, 2.5 ml | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | 4-hydroxy-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)O)C)=O | C9H10O3
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 4-tert-Butoxycarbonylmethoxy-3-methyl-benzoic Acid Methyl Ester | 3.8 g, 90% | COC(C1=CC(=C(C=C1)OCC(=O)OC(C)(C)C)C)=O | C15H20O5
